US07002032B2
To a nitrogen-replaced flask, 5.0 mL of a hexane solution containing n-butyllithium (concentration: 2.6 mol/L) was placed and cooled to −78° C. After 1.74 g of bis(cyclopentadienyl)ruthenium was added, 50 mL of tetrahydrofuran was added dropwise over one hour to react them. The reaction solution was allowed to stand for 2 hours to return the temperature to room temperature and thereafter a reaction was performed for 24 hours. The reaction solution was again cooled to −78° C., 9.81 g of ethyl bromide was added dropwise over one hour to react them, allowed to stand for 2 hours to room temperature, and the reaction was performed for 24 hours. After completion of the reaction, 100 mL of water was added and bis(ethylcyclopentadienyl)ruthenium was extracted with hexane and then hexane was evaporated from the extraction solvent to obtain 2.0 g of bis(ethylcyclopentadienyl) ruthenium.

reactant | hexane | 5.0 mL | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | bis(cyclopentadienyl)ruthenium | 1.74 g | C1(C=CC=C1)[Ru]C1C=CC=C1
reactant | ethyl bromide | 9.81 g | C(C)Br | C2H5Br
solvent | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | bis(ethylcyclopentadienyl) ruthenium | 2.0 g | C(C)C1(C=CC=C1)[Ru]C1(C=CC=C1)CC | InChI=1S/2C7H9.Ru/c2*1-2-7-5-3-4-6-7;/h2*3-6H,2H2,1H3;
